US07223788B2
4-Cyclohexyl-N-methyl-N-[4-(2′-oxo[1,3′]bipyrrolidinyl-1′-yl)phenyl]benzamide
N-[4-(3-Bromo-2-oxopyrrolidin-1-yl)phenyl]-4-cyclohexyl-N-methylbenzamide was reacted with pyrrolidine by method L. This resulted in the product with the molecular weight of 445.61 (C28H35N3O2); MS (ESI): 446 (M+H+).

reactant | N-[4-(3-Bromo-2-oxopyrrolidin-1-yl)phenyl]-4-cyclohexyl-N-methylbenzamide | BrC1C(N(CC1)C1=CC=C(C=C1)N(C(C1=CC=C(C=C1)C1CCCCC1)=O)C)=O | C24H27BrN2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-Cyclohexyl-N-methyl-N-[4-(2′-oxo[1,3′]bipyrrolidinyl-1′-yl)phenyl]benzamide | C1(CCCCC1)C1=CC=C(C(=O)N(C2=CC=C(C=C2)N2C(C(CC2)N2CCCC2)=O)C)C=C1 | C28H35N3O2
